US07737295B2
Methyl {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate (20 mg, 0.053 mmol) was dissolved in THF (1 mL). 3-(Trifluoromethyl)benzyl bromide (122 μL, 0.79 mmol) was added followed by potassium bis(trimethylsilyl)amide (320 μL of a 0.5 M solution in toluene, 0.160 mmol). The reaction was stirred for two hours and then poured into H2O (10 mL). The mixture was extracted with EtOAc (50 mL), and the organic extracts were washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography with 2% to 25% EtOAc/hexanes afforded methyl {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}[3-(trifluoromethyl)benzyl]carbamate. Rf=0.67 (15% EtOAc/hexanes). LCMS=540.3 (M+1)+. 1H NMR (C6D6, 500 MHz, 70° C.) δ 7.72 (s, 1H), 7.36 (dd, J=8.0, 1.0 Hz, 1H), 7.19-7.23 (m, 2H), 7.03-7.07 (m, 3H), 6.86 (m, 2H), 6.57 (d, J=8.5 Hz, 1H), 4.41 (s, 2H), 4.05 (s, 2H), 3.36 (s, 3H), 3.22 (s, 3H), 2.73 (m, 1H), 1.25 (d, J=6.5 Hz, 6H).

reactant | Methyl {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | 0.053 mmol, 20 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNC(OC)=O)OC | C20H22F3NO3
reactant | 3-(Trifluoromethyl)benzyl bromide | 0.79 mmol, 122 μL | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | H2O | 10 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl {[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}[3-(trifluoromethyl)benzyl]carbamate | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(OC)=O)CC1=CC(=CC=C1)C(F)(F)F)OC | C28H27F6NO3
